US06177422B1
A mixture of 4-hydroxy-3-nitro-benzaldehyde (5.0 g, 29.9 mmol), 1,3-propanediol (3.4 g, 44.9 mmol) and 0.1 g of p-toluene sulfonic acid in 100 mL of toluene is warmed to reflux. The water generated is removed by a Dean-Stark trap. After 2 hours, the reaction mixture is cooled to room temperature and extracted with 2×100 mL of saturated sodium bicarbonate followed by 100 mL of brine. Drying over sodium sulfate and evaporation of the solvent gives 5.6 g (83% yield) of 2-[4-hydroxy-3-nitro-phenyl]-1,3-dioxane oil.

reactant | 4-hydroxy-3-nitro-benzaldehyde | 29.9 mmol, 5.0 g | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | 1,3-propanediol | 44.9 mmol, 3.4 g | C(CCO)O | C3H8O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluene sulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-[4-hydroxy-3-nitro-phenyl]-1,3-dioxane | 5.6 g, 83% yield | OC1=C(C=C(C=C1)C1OCCCO1)[N+](=O)[O-] | C10H11NO5
